### PR TITLE
Rmodules complements

### PR DESCRIPTION
**Pull request by amblafont**
- monad Precategory
- (faithful) forgetful functor from monads to endofunctors
- tautological right modules
- pullbacks of right modules along a monad morphism

### CODE REVIEW

File: UniMath/CategoryTheory/RModules.v [hunk 1]
```diff
@@ -166,9 +172,138 @@ Proof.
...
-  := tpair _ _ (precategory_RModule_axioms C hs).
+Definition precategory_RModule (C : Precategory) : precategory
+  := tpair _ _ (precategory_RModule_axioms C (homset_property C)).
+
+Lemma has_homsets_RModule (C:Precategory) :
+  has_homsets (precategory_RModule C).
+Proof.
+  intros F G.
+  simpl.
+  apply isaset_total2 .
```
Comment (mortberg) [inline UniMath/CategoryTheory/RModules.v]: Please use bullets after this

File: UniMath/CategoryTheory/RModules.v [hunk 2]
```diff
@@ -166,9 +172,138 @@ Proof.
...
+right modules over M
+
+If T is a module over M', we call m* T the pullback module of T along m
+*)
+Section Pullback_module.
+
+  Lemma cancel_functor_on_morph (C C' : precategory_ob_mor)
+        (F : functor_data C C') (a b : C) (m m': C ⟦ a, b ⟧) : m = m' -> #F m = #F m'.
+  Proof.
+    now induction 1.
```
Comment (mortberg) [inline UniMath/CategoryTheory/RModules.v]: I think it is better practice to name the hypothesis and then do induction on the name instead. In this case I would do:

`intros e; induction e.` 

Or directly put e among the hypothesis of the lemma in order to avoid having to introduce it.

File: UniMath/CategoryTheory/RModules.v [hunk 3]
```diff
@@ -166,9 +172,138 @@ Proof.
...
+    tpair _ (T:functor B C) pb_RModule_σ.
+
+  Lemma pb_RModule_laws : RModule_laws M pb_RModule_data.
+  Proof.
+    split.
+    - simpl.
+      assert (hT1:= RModule_law2 _ (T:=T)).
+      assert (hT2:= RModule_law1 _ (T:=T)).
+      intro c.
+      rewrite <- hT2; clear hT2.
```
Comment (mortberg) [inline UniMath/CategoryTheory/RModules.v]: Can't you just do `rewrite <- (RModule_law1 _ (T:=T))` instead of asserting it and then clearing it?

File: UniMath/CategoryTheory/Monads.v [hunk 4]
```diff
@@ -191,6 +193,43 @@ Qed.
...
+
+Definition forgetfunctor_Monad (C:Precategory) :
+  functor (Precategory_Monad C) (functor_Precategory C C).
+Proof.
+  use mk_functor.
+  use mk_functor_data.
+  - exact (fun M => pr1 M:functor C C).
+  - exact (fun M N f => pr1 f).
+  - abstract (split; red; intros;  reflexivity).
+Defined.
```
Comment (mortberg) [inline UniMath/CategoryTheory/Monads.v]: Isn't the structure of the bullets a bit weird in this proof? I would imagine something like this instead:

```
use mk_functor.
- use mk_functor_data.
  + exact (fun M => pr1 M:functor C C).
  + exact (fun M N f => pr1 f).
- abstract (split; red; intros; reflexivity).
```

**Comment by mortberg** [comment]
LGTM (modulo minor comments)

**Comment by amblafont** [comment]
Thanks for the feedback

File: UniMath/CategoryTheory/RModules.v [hunk 5]
```diff
@@ -166,9 +172,135 @@ Proof.
...
+(** Let m : M -> M' a monad morphism.
+
+m induces a functor m* between the category of right modules over M' and the category of
+right modules over M
+
+If T is a module over M', we call m* T the pullback module of T along m
+*)
+Section Pullback_module.
+
+  Lemma cancel_functor_on_morph (C C' : precategory_ob_mor)
```
Comment (benediktahrens) [inline UniMath/CategoryTheory/RModules.v]: This is just `maponpaths`. What do you need this lemma for?

**Comment by DanGrayson** [comment]
lgtm

File: UniMath/CategoryTheory/RModules.v (hunk 5 above)
Comment (amblafont) [inline UniMath/CategoryTheory/RModules.v]: this explains why there is no such lemma :)
